US07601877B2
In a 50 ml four necked flask equipped with a stirrer, thermometer, gas inlet, and a reflux condenser, under argon atmosphere 0.654 g (96.52%, 1 mmol) of solanesol (nonaprenol, C45) were dissolved in 15 ml of n-hexane. The solution was mixed with 0.983 g (5.0 mmol) of 2,3-dimethoxy-1,4-dihydroxy-toluene (DMDHT) dissolved in 7.6 ml of nitromethane. The catalyst, Sc(OTf)3 (2.5 mg, 0.005 mmol) was then added. The two-phase mixture was heated up to 50° C. (internal temperature) under stirring (400 rpm). After 16 hours reaction time the mixture was cooled down to room temperature (21° C.). The hexane layer was separated and washed two times with 4 ml (total 8 ml) of nitromethane. The hexane phase was evaporated and yielded 0.78 g of crude 2,3-dimethoxy-5-methyl-6-((2E,6E,10E,14E,18E,22E,26E,30E)-3,7,11,15,19,23,27,31,35-nonamethyl-hexatriaconta-2,6,10,14,18,22,26,30,34-nonaenyl)-benzene-1,4-diol (H2-CoQ9), which was purified by column chromatography on 30 g silica (elution with n-hexane/ethyl acetate=99/1, v/v), to give 440 mg of an orange oil consisting of 73.2% H2-CoQ9 and 21% CoQ9 (formed from H2-CoQ9 by partial air oxidation during isolation and HPLC analysis), corresponding to yields of 40.4% H2-CoQ9 and 11.6% CoQ9, sum 52%.

reactant | solanesol | 1 mmol, 0.654 g | CC(=CCC/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CO)/C)/C)/C)/C)/C)/C)/C)/C)C | C45H74O
reactant | 2,3-dimethoxy-1,4-dihydroxy-toluene | 5.0 mmol, 0.983 g | COC1C(C=CC(=C1OC)O)(C)O | C9H14O4
reactant | n-hexane | 15 ml | CCCCCC | C6H14
solvent | nitromethane | 7.6 ml | [N+](=O)([O-])C | CH3NO2
catalyst | Sc(OTf)3 | 0.005 mmol, 2.5 mg | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Sc+3]
product | 2,3-dimethoxy-5-methyl-6-((2E,6E,10E,14E,18E,22E,26E,30E)-3,7,11,15,19,23,27,31,35-nonamethyl-hexatriaconta-2,6,10,14,18,22,26,30,34-nonaenyl)-benzene-1,4-diol | 0.78 g | COC1=C(C(=C(C(=C1OC)O)C)C\C=C(\CC\C=C(\CC\C=C(\CC\C=C(\CC\C=C(\CC\C=C(\CC\C=C(\CC\C=C(\CCC=C(C)C)/C)/C)/C)/C)/C)/C)/C)/C)O | C54H84O4
